US07915267B2
A mixture of 2-amino-5-nitrobenzonitrile (25.4 g) and sulfuric acid (70 mL) was stirred at 130° C. for 40 min. The reaction mixture was added slowly to ice water, and the precipitate was collected by filtration, washed with water, ethanol and diethyl ether to give 2-amino-5-nitrobenzamide (24.6 g).

reactant | 2-amino-5-nitrobenzonitrile | 25.4 g | NC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | sulfuric acid | 70 mL | S(O)(O)(=O)=O | H2O4S
product | 2-amino-5-nitrobenzamide | 24.6 g | NC1=C(C(=O)N)C=C(C=C1)[N+](=O)[O-] | C7H7N3O3
